US06140100
According to example 61, 10.0 g of 2-iodobenzyl alcohol was treated with 25 mL of cyclohexene (Aldrich) using 0.96 g of Pd(O Ac)2, 2.60 g of tri-ortho-tolyphosphine, and 6.6 mL of Et3N at 100° C. for 48 h. The resulting olefin mixture was hydrogenated for 6.5 h using 0.36 g of 5% Pt(C) in MeOH to afford 3.37 g (42%) of 2-cyclohexyl benzyl alcohol as a light yellow liquid.

reactant | 2-iodobenzyl alcohol | 10.0 g | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | cyclohexene | 25 mL | C1=CCCCC1 | C6H10
reactant | Et3N | 6.6 mL | CCN(CC)CC | C6H15N
solvent | MeOH | CO | CH4O
product | 2-cyclohexyl benzyl alcohol | 3.37 g, 42% | C1(CCCCC1)C1=C(CO)C=CC=C1 | C13H18O
